US07585885B2
N-Methyl-5-oxazol-5-yl-N-propyl-isophthalamic acid
Heat a solution of 5-formyl-N-methyl-N-propyl-isophthalamic acid ethyl ester (300 mg, 1.08 mmol), tosylmethyl isocyanide (254 mg, 1.3 mmol), and sodium methoxide (193 mg, 3.57 mmol) in methanol (3.1 mL) at 40° C. for 1 h. Add water to the hot solution and extract with dichloromethane and ethyl acetate. Acidify the aqueous with 5 N HCl, extract with dichloromethane, dry (magnesium sulfate), concentrate and purify (silica gel chromatography, eluting with 0:100 to 4:96 methanol:dichloromethane) to give the title compound (203 mg, 65%).

reactant | 5-formyl-N-methyl-N-propyl-isophthalamic acid ethyl ester | 1.08 mmol, 300 mg | C(C)OC(C1=CC(C(=O)N(CCC)C)=CC(=C1)C=O)=O | C15H19NO4
reactant | tosylmethyl isocyanide | 1.3 mmol, 254 mg | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | sodium methoxide | 3.57 mmol, 193 mg | C[O-].[Na+]
solvent | methanol | 3.1 mL | CO | CH4O
product | N-Methyl-5-oxazol-5-yl-N-propyl-isophthalamic acid | 203 mg, 65% | CN(C(C=1C=C(C(=O)O)C=C(C1)C1=CN=CO1)=O)CCC | C15H16N2O4
